US05149357
This compound is prepared in a manner analogous to that of Example 1, Step G, using equimolar amounts of 6-phenyl-2-(4,6-dimethoxypyrimidin-2-yloxy)benzoic acid, 4-nitrophenol, and dicyclohexylcarbiimide in methylene chloride, yielding 4-nitrophenyl 6-phenyl-2-(4,6-dimethoxypyrimidin-2-yloxy)benzoate.

reactant | 6-phenyl-2-(4,6-dimethoxypyrimidin-2-yloxy)benzoic acid | C1(=CC=CC=C1)C1=CC=CC(=C1C(=O)O)OC1=NC(=CC(=N1)OC)OC | C19H16N2O5
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-nitrophenyl 6-phenyl-2-(4,6-dimethoxypyrimidin-2-yloxy)benzoate | C1(=CC=CC=C1)C1=CC=CC(=C1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC1=NC(=CC(=N1)OC)OC | C25H19N3O7
